* Created by KLayout
*** My special header ***

* cell tr_1um_ichiken01
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_ichiken01 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 76.3,-753.5
X$2 P7 P6 P10 VSS inverter_soraoto06
* cell instance $3 r0 *1 462.6,-763.1
X$3 P6 P7 P11 VSS inverter_Miyamoto_sprzk_naoyuki
* cell instance $4 r0 *1 -310,-760.7
X$4 P6 P7 P9 VSS inverter_yumu19
* cell instance $18 r0 *1 -210.4,512.2
X$18 P14 P15 P1 P13 P3 P4 P2 \$26 VSS 1bitCPU_SatoshiSasaki
.ENDS tr_1um_ichiken01

* cell inverter_Miyamoto_sprzk_naoyuki
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_Miyamoto_sprzk_naoyuki VDD A Q VSS
* device instance $1 r0 *1 1.5,19.7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 1.3,-3.8 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Miyamoto_sprzk_naoyuki

* cell inverter_soraoto06
* pin A
* pin VDD
* pin Q
* pin VSS
.SUBCKT inverter_soraoto06 A VDD Q VSS
* device instance $1 r0 *1 -1.3,11.3 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -1.3,-9.8 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_soraoto06

* cell inverter_yumu19
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_yumu19 VDD A Q VSS
* device instance $1 r0 *1 1.5,19.7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 1.3,-3.8 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_yumu19

* cell 1bitCPU_SatoshiSasaki
* pin PROG1
* pin PC1
* pin PC0
* pin PROG0
* pin RESET
* pin CLK
* pin REG0
* pin VDD
* pin VSS
.SUBCKT 1bitCPU_SatoshiSasaki PROG1 PC1 PC0 PROG0 RESET CLK REG0 VDD VSS
* cell instance $1 r0 *1 237.3,16.1
X$1 \$3 \$14 VDD \$1 VSS NAND2
* cell instance $2 r0 *1 270.3,16.1
X$2 VDD \$1 \$48 \$21 VSS AND2_X1
* cell instance $5 r0 *1 336.3,16.1
X$5 VDD \$2 \$51 VSS INV_X1
* cell instance $6 r0 *1 396.8,16.1
X$6 VDD \$7 \$2 \$47 VSS AND2_X1
* cell instance $7 r0 *1 292.3,16.1
X$7 VDD REG0 \$2 \$52 VSS AND2_X1
* cell instance $8 r0 *1 369.3,16.1
X$8 VDD PROG0 \$2 VSS INV_X1
* cell instance $10 r0 *1 253.8,16.1
X$10 VDD \$2 \$48 VSS INV_X1
* cell instance $20 r0 *1 204.3,16.1
X$20 REG0 \$5 VDD \$3 VSS NAND2
* cell instance $22 r0 *1 380.3,16.1
X$22 VDD PROG1 \$7 VSS INV_X1
* cell instance $24 r0 *1 187.8,16.1
X$24 REG0 \$7 VDD \$5 VSS NAND2
* cell instance $25 r0 *1 220.8,16.1
X$25 \$5 \$7 VDD \$14 VSS NAND2
* cell instance $28 r0 *1 176.8,16.1
X$28 VDD PC0 PC1 VSS INV_X1
* cell instance $37 r0 *1 94.3,16.1
X$37 CLK \$22 RESET \$16 PC0 VDD VSS DFFR
* cell instance $41 r0 *1 6.3,16.1
X$41 CLK \$18 RESET \$I85 REG0 VDD VSS DFFR
* cell instance $49 r0 *1 352.8,16.1
X$49 VDD \$16 \$51 \$20 VSS AND2_X1
* cell instance $68 r0 *1 314.3,16.1
X$68 VDD \$21 \$52 \$18 VSS OR2
* cell instance $69 r0 *1 418.8,16.1
X$69 VDD \$20 \$47 \$22 VSS OR2
.ENDS 1bitCPU_SatoshiSasaki

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OR2
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT OR2 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$4 A \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$7 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 gnd A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS OR2

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell NAND2
* pin A
* pin B
* pin vdd
* pin Y
* pin gnd
.SUBCKT NAND2 A B vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A \$5 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 \$5 B Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NAND2

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 75.7,6.8 NMOS
XM$18 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $19 r0 *1 79.7,6.8 NMOS
XM$19 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $20 r0 *1 50.9,6.8 NMOS
XM$20 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $21 r0 *1 53.3,6.8 NMOS
XM$21 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 57.3,6.8 NMOS
XM$22 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $23 r0 *1 59.7,6.8 NMOS
XM$23 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $24 r0 *1 63.7,6.8 NMOS
XM$24 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $25 r0 *1 67.7,6.8 NMOS
XM$25 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 6.1,6.8 NMOS
XM$26 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 10.1,6.8 NMOS
XM$27 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
